US04831148
47.7 g (0.82 mol) of potassium fluoride and 10.0 g (0.065 mol) of caesium fluoride are suspended in 300 ml of sulfolane and the suspension is heated to 140° C. 60 ml of sulfolane are distilled off by decreasing the pressure and subsequently 65.6 g (0.329 mol) of 2-chloro-3-fluoro-5-trifluoromethylpyridine and 1.3 g (0.004 mol) of 18-crown-6 are added. The reaction mixture is stirred for 48 hours at 140° C. and subsequently distilled by introducing steam. The oil is separated and the aqueous phase is extracted twice with a small amount of ether. The organic phases are purified, dried with a small amount of magnesium sulfate and filtered. Distillation affords 54.8 g (91% of theory) of 2,3-difluoro-5-trifluoromethylpyridine, b.p. 100°-102° C. (980 mbar).

reactant | potassium fluoride | 0.82 mol, 47.7 g | [F-].[K+]
reactant | caesium fluoride | 0.065 mol, 10.0 g | [F-].[Cs+]
reactant | 2-chloro-3-fluoro-5-trifluoromethylpyridine | 0.329 mol, 65.6 g | ClC1=NC=C(C=C1F)C(F)(F)F | C6H2ClF4N
solvent | sulfolane | 300 ml | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | 18-crown-6 | 0.004 mol, 1.3 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 2,3-difluoro-5-trifluoromethylpyridine | 54.8 g, 91% | FC1=NC=C(C=C1F)C(F)(F)F | C6H2F5N
